US06177440B1
40% Methanolic Triton B (2.42 mL, 5.3 mM) was slowly added dropwise to a solution of 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one (873.7 mg, 3.59 mM) in 10 mL of DMF at 25° C. After 5 minutes, 2-chlorobenzyl bromide (1.11 g, 5.39 mM) was added and the resultant mixture stirred at room temperature for 72 hours. The mixture was diluted with ethyl acetate, washed five times with H2O, once with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was purified by crystallization from ethyl acetate to afford 706.3 mg (53%) of the 9-[(2-chlorophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one as a yellow solid. 1H NMR (DMSO-d6) δ 7.6 (m, 2H), 7.4-7.1 (m, 4H), 6.5 (d, 1H, J=8 Hz), 5.6 (s, 2H), 3.8 (s, 3H), 2.9 (t, 2H, J=6 Hz), 2.4 (t, 2H, J=6 Hz), and 2.1 (m, 2H). IR (CHCl3, cm−1) 3050, 2950, 1725, 1655, 1462, 1446, 1435, 1288 and 1120. MS (ES) m/e 368, 370.

reactant | 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one | 3.59 mM, 873.7 mg | C(=O)(OC)C1=C2C=3C(CCCC3NC2=CC=C1)=O | C14H13NO3
reactant | 2-chlorobenzyl bromide | 5.39 mM, 1.11 g | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(2-chlorophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one | 706.3 mg, 53% | ClC1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(CCCC12)=O)C(=O)OC | C21H18ClNO3
